US06638929B2
A reaction mixture of 767.7 mg (3.1 mmol) of 7-methoxy-4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile in 12 mL of phosphorus oxychloride and 5 drops of N,N-dimethylformamide (DMF) is refluxed for 2 hours. After cooling, the mixture is concentrated to dryness in vacuo to give a dark residue. The residue is partitioned between methylene chloride and ice-cooled saturated aqueous sodium carbonate solution. The organic layer is washed with ice-cooled brine and dried over sodium sulfate. The crude product is passed through a short column of silica gel, and further eluted with additional methylene chloride, followed by 95:5 methylene chloride/ethyl acetate. Removal of the solvent in vacuo yields 532.0 mg (64.7%) of 4-chloro-7-methoxybenzo[g]quinoline-3-carbonitrile as a bright yellow solid, mp 242-243° C.

reactant | 7-methoxy-4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile | 3.1 mmol, 767.7 mg | COC=1C=CC2=C(C=C3C(C(=CNC3=C2)C#N)=O)C1 | C15H10N2O2
reactant | phosphorus oxychloride | 12 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | N,N-dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
product | 4-chloro-7-methoxybenzo[g]quinoline-3-carbonitrile | 532.0 mg, 64.7% | ClC1=C(C=NC2=CC3=C(C=C12)C=C(C=C3)OC)C#N | C15H9ClN2O
